US08729079B2
c: Ethyl 4-formyl-6-(methylthio)-2-phenylpyrimidine-5-carboxylate
To a solution of ethyl 4-methyl-6-(methylthio)-2-phenylpyrimidine-5-carboxylate (5 g 17.4 mmol) in 1.4-dioxane (50 mL) was added selenium dioxide (9.6 g, 86.5 mmol) and water (1.5 mL) and the reaction mixture was refluxed for 12 hours. Dioxane was removed in a vacuum and the crude solid suspended in ethyl acetate and filtered. The filtrate was concentrated and purified by column chromatography over silica gel using 10% ethyl acetate in petroleum ether as eluent to give the desired product (3.1 g). 1H-NMR (400 Hz, CDCl3): δ 10.10 (s, 1H), 8.54 (d, J=7.2 Hz, 2H), 7.56-7.43 (m, 3H), 4.47 (q, J=7.2 Hz, 2H), 2.67 (s, 3H), 2.64 (s, 3H), 1.42 (t, J=7.2 Hz, 3H); MS m/z 303.1 (M+1).

reactant | ethyl 4-methyl-6-(methylthio)-2-phenylpyrimidine-5-carboxylate | 17.4 mmol, 5 g | CC1=NC(=NC(=C1C(=O)OCC)SC)C1=CC=CC=C1 | C15H16N2O2S
reactant | selenium dioxide | 86.5 mmol, 9.6 g | [Se](=O)=O | O2Se
reactant | water | 1.5 mL | O | H2O
solvent | 1.4-dioxane | 50 mL | O1CCOCC1 | C4H8O2
product | Ethyl 4-formyl-6-(methylthio)-2-phenylpyrimidine-5-carboxylate | 3.1 g | C(=O)C1=NC(=NC(=C1C(=O)OCC)SC)C1=CC=CC=C1 | C15H14N2O3S
